US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-diethyl-2,3-dimethylbenzamide (5.2474 g) and 3-(3-hydroxypiperidin-1-yl)propionitrile (2.62 g), 3-[2-(3-hydroxypiperidin-1-yl)ethyl]-2H-isoquinolin-1-one (888.2 mg) was obtained.

reactant | N,N-diethyl-2,3-dimethylbenzamide | 5.2474 g | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | 3-(3-hydroxypiperidin-1-yl)propionitrile | 2.62 g | OC1CN(CCC1)CCC#N | C8H14N2O
product | 3-[2-(3-hydroxypiperidin-1-yl)ethyl]-2H-isoquinolin-1-one | 888.2 mg | OC1CN(CCC1)CCC=1NC(C2=CC=CC=C2C1)=O | C16H20N2O2
